US06734180B1
4-(2-indanylamino)-5,6-dimethylthieno[2,3-d]pyrimidine
Using 4-hydroxy-5,6-dimethylthieno[2,3-d]pyrimidine (180 mg, 1.0 mmol), phosphorus oxychloride (1.0 ml), 2-aminoindan (270 mg, 2.0 mmol), triethylamine (0.84 ml, 6.0 mmol) and dry ethanol (5 ml), a similar procedure to b) in Example 19 was carried out. The product obtained was purified by silica gel chromatography (hexane:ethyl acetate=2:1) to obtain the title compound (190 mg, 0.64 mmol) having the following physical properties:

reactant | 4-hydroxy-5,6-dimethylthieno[2,3-d]pyrimidine | 1.0 mmol, 180 mg | OC=1C2=C(N=CN1)SC(=C2C)C | C8H8N2OS
reactant | phosphorus oxychloride | 1.0 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-aminoindan | 2.0 mmol, 270 mg | NC1CC2=CC=CC=C2C1 | C9H11N
reactant | triethylamine | 6.0 mmol, 0.84 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(2-indanylamino)-5,6-dimethylthieno[2,3-d]pyrimidine | 0.64 mmol, 190 mg | C1C(CC2=CC=CC=C12)NC=1C2=C(N=CN1)SC(=C2C)C | C17H17N3S
